US05095022
Ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinepropionate
A mixture of 4.00 g of 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine, 2.1 ml of ethyl acrylate and 20 ml of ethanol was refluxed for 1 hr and concentrated to give 5.35 g of colorless liquid. The liquid was purified by column chromatography on silica gel (eluent: chloroform) to give 5.3 g of colorless solid, which was recrystallized from n-hexane to give colorless crystals, mp 66°-67° C.

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | 4.00 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | ethyl acrylate | 2.1 ml | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinepropionate | 5.35 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCC(=O)OCC | C25H27NO2
